US04621097
A solution of cis-hexahydro-1-oxo-cyclopenta[c]pyrrole-2(1H)-acetic acid ethyl ester (25 g, 0.0154 mole) in methanol is saturated with anhydrous ammonia and the mixture is stirred at room temperature 24 hours. The solution is concentrated at reduced pressure to yield a solid with mp 138°-141° C. Recrystallization (acetonitrile) yields pure cis-hexahydro-1-oxo-cyclopenta[c]pyrrole-2(1H)-acetamide with mp 142.5°-143.5° C.

reactant | cis-hexahydro-1-oxo-cyclopenta[c]pyrrole-2(1H)-acetic acid ethyl ester | 0.0154 mole, 25 g | C(C)OC(CN1C([C@@H]2[C@H](C1)CCC2)=O)=O | C11H17NO3
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | cis-hexahydro-1-oxo-cyclopenta[c]pyrrole-2(1H)-acetamide | O=C1N(C[C@H]2[C@@H]1CCC2)CC(=O)N | C9H14N2O2
